US07838087B2
The crude 1-hydroxy-4-(4-propylcyclohexyl)cyclohexyl-2-fluoroethoxybenzene obtained in the first step was dissolved in toluene. p-Toluene sulfonic acid monohydrate was added and refluxed while heating for two hours under dewatering by using a Dean-Stark apparatus. The reaction mixture was poured into an aqueous saturated sodium hydrogen carbonate solution and extracted with toluene. The organic layer was washed with water and then with an aqueous saturated sodium chloride solution successively and, after dying over anhydrous magnesium sulfate, concentrated under a reduced pressure. The residue was purified by silica gel column chromatography to obtain 4-(4-propylcyclohexyl)cyclohexenyl-2-fluoroethoxybenzene.

reactant | 1-hydroxy-4-(4-propylcyclohexyl)cyclohexyl-2-fluoroethoxybenzene | OC1(CCC(CC1)C1CCC(CC1)CCC)C1=C(C=CC=C1)OCCF | C23H35FO2
reactant | p-Toluene sulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(4-propylcyclohexyl)cyclohexenyl-2-fluoroethoxybenzene | C(CC)C1CCC(CC1)C1CC=C(CC1)C1=C(C=CC=C1)OCCF | C23H33FO
